US05112834
D. 3-formyl-2-methyl-8-nitro-imidazo[1,2-a]pyridine
20 ml phosphoroxychloride is added dropwise within 5 minutes to a solution of 7.6 g 2-methyl-8-nitro-imidazo[1,2-a]pyridine in 100 ml dimethylformamide at 0° C. After stirring for 1 hour at 0° C. and for 2 hours at 70° C. the mixture is cooled again to 0° C. 10 ml phosphoroxychloride is added dropwise and the same procedure is carried out as before. When the reaction is finished the mixture is poured over 200 ml icewater, neutralized with saturated sodium hydrogen carbonate solution and extracted 3×with 50 ml ethyl acetate each time. The solvent is stripped off in vacuo and the residue is washed with ether and recrystallized from acetronitrile, giving the title compound of m.p. 188°-189° C.

reactant | phosphoroxychloride | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-methyl-8-nitro-imidazo[1,2-a]pyridine | 7.6 g | CC=1N=C2N(C=CC=C2[N+](=O)[O-])C1 | C8H7N3O2
reactant | phosphoroxychloride | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-formyl-2-methyl-8-nitro-imidazo[1,2-a]pyridine | C(=O)C1=C(N=C2N1C=CC=C2[N+](=O)[O-])C | C9H7N3O3
